US05236952
ada) A suspension of 14.5 g of 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone and 5.41 g of 1,2-phenylenediamine in 350 ml of methanol is treated with 4.92 g of sodium acetate and the mixture is heated to boiling under reflux for 22 hours. The reaction mixture is then evaporated, the residue is dissolved in methylene chloride, this solution is washed four times with water, dried over sodium sulfate, filtered and evaporated. There is obtained 2-(4-hydroxy-3-methoxy-5-nitrophenyl)quinoxaline of m.p. 195°-197° (from methylene chloride/methanol).

reactant | 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone | 14.5 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H8BrNO5
reactant | 1,2-phenylenediamine | 5.41 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium acetate | 4.92 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 350 ml | CO | CH4O
product | 2-(4-hydroxy-3-methoxy-5-nitrophenyl)quinoxaline | OC1=C(C=C(C=C1[N+](=O)[O-])C1=NC2=CC=CC=C2N=C1)OC | C15H11N3O4
